US06002008
A mixture of 3.8 g (19 mmol) of 1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarbonitrile and 40 mL of phosphorous oxochloride and 5 drops of DMF was refluxed for 0.5 hours. The mixture was evaporated to dryness and diluted with hexanes. The solid was collected and mixed with cold dilute sodium carbonate solution and extracted several times with ethyl acetate. The organic layer was dried over sodium sulfate and filtered through a pad of silica gel. Removal of the solvent gave 3.8 g of 4-chloro-8-methoxy-3-quinolinecarbonitrile as an off white solid in 91% yield, mass spectrum (electrospray, m/e): M+H 219.1.

reactant | 1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarbonitrile | 19 mmol, 3.8 g | COC=1C=CC=C2C(C(=CNC12)C#N)=O | C11H8N2O2
reactant | oxochloride | 40 mL | O(Cl)Cl | Cl2O
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
product | 4-chloro-8-methoxy-3-quinolinecarbonitrile | 3.8 g, 91% yield | ClC1=C(C=NC2=C(C=CC=C12)OC)C#N | C11H7ClN2O
